*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : APXF4R0ARA391MF80G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT APXF4R0ARA391MF80G_20deg-C 1 2

C1 4 2 3.86e-04
C2 5 2 1.94e-05
C3 6 2 1.03e-06
R1 3 4 8.47e-03
R2 4 5 7.54e-01
R3 5 6 4.90e+01
L1 1 3 2.70e-09

.ENDS
*$
